US07816391B2
Intermediate#44: 1-(4-Methoxycarbonyl-benzyl)-5-propylsulfanyl-1H-pyrazole-4-carboxylic acid
TFA (1.5 ml) was added to a stirred solution of 1-(4-Methoxycarbonyl-benzyl)-5-propylsulfanyl-1H-pyrazole-4-carboxylic acid tert-butyl ester (Intermediate#46) (274 mg, 0.70 mmol) in DCM (6 ml). The reaction was stirred at ambient temperature for 3 hours then evaporated in vacuo. The resulting gum was sonicated with isohexane to yield a solid. The solvent was removed then the white solid was dissolved in EtOAc and evaporated in vacuo to yield the title compound as an off white solid (236 mg, 100%).

reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-(4-Methoxycarbonyl-benzyl)-5-propylsulfanyl-1H-pyrazole-4-carboxylic acid tert-butyl ester | 0.70 mmol, 274 mg | C(C)(C)(C)OC(=O)C=1C=NN(C1SCCC)CC1=CC=C(C=C1)C(=O)OC | C20H26N2O4S
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Methoxycarbonyl-benzyl)-5-propylsulfanyl-1H-pyrazole-4-carboxylic acid | COC(=O)C1=CC=C(CN2N=CC(=C2SCCC)C(=O)O)C=C1 | C16H18N2O4S
